US07399780B2
3-{5-[(4-Methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indol-2-ol hydrochloride
Sodium hydride (46 mg, 60% dispersion in paraffin) was washed with hexane and dried in vacuo. N,N-Dimethylformamide (3 mL), oxindole (72 mg, 0.54 mmol) and 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine (100 mg, 0.36 mmol; described in: Thunus L., Annales Pharmaceutiques Francaises 1977, 35, 197-203) were added to the sodium hydride and the reaction mixture was stirred at room temperature for 5 min. The reaction mixture was then heated for 10 min at 130° C. After cooling to room temperature, a saturated aqueous sodium hydrogen carbonate solution was added. The mixture was extracted twice with methylene chloride and the combined organic layers were dried (Na2SO4), filtrated and the solvent was removed in vacuo. The residue was purified on a silica gel column using a gradient ethyl acetate/methanol, (40:1 to 1:1), as the eluent. The product was dissolved in a mixture of methylene chloride (5 mL) and methanol (5 mL). Hydrogen chloride (3 mL, 1 M in diethyl ether) was added and stirring was continued for 10 min. The precipitate was washed with diethyl ether and dried in vacuo to give 50 mg (37% yield) of the title compound: 1H NMR (D2O, 400 MHz) δ 7.95 (m, 1 H), 7.45 (d, J=2 Hz, 1 H), 7.43 (dd, J=9, 2 Hz, 1 H), 7.23 (m, 1 H), 7.14 (d, J=9 Hz, 1 H), 7.00 (m, 2 H), 3.88 (d, J=14 Hz, 2 H), 3.60 (d, J=12 Hz, 2 H), 3.23 (m, 2 H), 2.94 (m, 2 H), 2.90 (s, 3 H); MS (ES) m/z 373 (M++1).

reactant | oxindole | 0.54 mmol, 72 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine | 0.36 mmol, 100 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C | C10H14ClN3O2S
reactant | sodium hydride | [H-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-Dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 3-{5-[(4-Methylpiperazin-1-yl)sulfonyl]pyridin-2-yl}-1H-indol-2-ol hydrochloride | 50 mg, 37% yield | Cl.CN1CCN(CC1)S(=O)(=O)C=1C=CC(=NC1)C1=C(NC2=CC=CC=C12)O | InChI=1S/C18H20N4O3S.ClH/c1-21-8-10-22(11-9-21)26(24,25)13-6-7-16(19-12-13)17-14-4-2-3-5-15(14)20-18(17)23;/h2-7,12,20,23H,8-11H2,1H3;1H
